US08703761B2
B. 4-{2-[2-(4-Fluoro-benzoylamino)-2-methyl-propionylamino]-4-phenyl-thiazol-5-ylmethyl}-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 4-Fluoro-N-[1-(5-hydroxymethyl-4-phenyl-thiazol-2-ylcarbamoyl)-1-methyl-ethyl]-benzamide (82 mg, 0.20 mmol), MsCl (40 uL) and triethylamine (160 uL) in dichloromethane (3 mL) was stirred at RT for 20 min and concentrated. The residue was taken up in MeCN (5 mL), and N-Boc piperazine (120 mg, 0.644 mmol) and triethylamine (160 uL) were added. The mixture was stirred at RT for 20 min and partitioned between ethyl acetate and aq. K2CO3. The combined organic extract was dried over MgSO4, concentrated and chromatographed to give the title compound. m/z 582.2 (MH+).

reactant | 4-Fluoro-N-[1-(5-hydroxymethyl-4-phenyl-thiazol-2-ylcarbamoyl)-1-methyl-ethyl]-benzamide | 0.20 mmol, 82 mg | FC1=CC=C(C(=O)NC(C)(C)C(NC=2SC(=C(N2)C2=CC=CC=C2)CO)=O)C=C1 | C21H20FN3O3S
reactant | MsCl | 40 uL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 160 uL | C(C)N(CC)CC | C6H15N
reactant | N-Boc piperazine | 0.644 mmol, 120 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 160 uL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-{2-[2-(4-Fluoro-benzoylamino)-2-methyl-propionylamino]-4-phenyl-thiazol-5-ylmethyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=C(N=C(S1)NC(C(C)(C)NC(C1=CC=C(C=C1)F)=O)=O)C1=CC=CC=C1 | C30H36FN5O4S
